US06582351B1
To a solution of 5-cyano-2-hydroxy-3-nitropyridine (600 mg) in 6 mL of dichloromethane containing triethylamine(0.557 mL) was added methanesulfonyl chloride (0.295 mL) under stirring at 0° C. The reaction mixture was stirred at the same temperature for 30 minutes, and then trans-4-aminocyclohexanol (1.26 g) was added to the mixture at 0° C. After stirring at room temperature for 2 hours, the mixture was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a preparative silica gel column chromatography eluting with 5% methanol in chloroform. The obtained substance was triturated with diisopropyl ether to give 5-cyano-2-(trans-4-hydroxycyclohexylamino)-3-nitropyridine (198.9 mg) as a yellow solid.

reactant | 5-cyano-2-hydroxy-3-nitropyridine | 600 mg | C(#N)C=1C=C(C(=NC1)O)[N+](=O)[O-] | C6H3N3O3
reactant | triethylamine | 0.557 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.295 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-4-aminocyclohexanol | 1.26 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 5-cyano-2-(trans-4-hydroxycyclohexylamino)-3-nitropyridine | 198.9 mg | C(#N)C=1C=C(C(=NC1)N[C@@H]1CC[C@H](CC1)O)[N+](=O)[O-] | C12H14N4O3
